US03950528
3-Amino-1-(2-fluorobenzyl)-pyrazol-5-one ##SPC32##
30.2 g of β-amino-β-ethoxyacrylic acid ethyl ester together with 2 g of p-toluenesulphonic acid were dissolved in 300 ml of ethanol and 27.1 g of o-fluorobenzylhydrazine were added under nitrogen. After stirring for 2 hours, the mixture was left to stand overnight and the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 146°, 11 g (27%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 30.2 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | o-fluorobenzylhydrazine | 27.1 g | FC1=C(CNN)C=CC=C1 | C7H9FN2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-Amino-1-(2-fluorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC=C1)F | C10H10FN3O
